US06559091B1
A suspension of ethyl potassium malonate (3.4 g, 20.0 mmol) in acetonitrile (30.6 mL) was treated with Et3N (3.11 mL, 22.3 mmol) and MgCl2 (2.38 g, 25.0 mmol). The. resulting suspension was stirred at rt for 2.5 h, then treated with 1-naphthoylchloride (1.55 mL, 10.3 mmol) and stirred under Ar at rt overnight. The acetonitrile was removed in vacuo, toluene (14 mL) was added and the suspension was concentrated again. The residue was suspended in toluene (14 mL) and washed with 12% Aq. HCl (14.1 mL). The organic layer was removed, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (SiO2, 10% EtOAc/Heptane) to afford 3-Naphthalen-1-yl-3-oxo-propionic acid ethyl ester (1.65 g, 66%) as a 3.5:1 mixture of keto/enol isomers: 1 1H NMR (CDCl3, chemical shifts in ppm relative to TMS): 1.21 (t, 3H, ketone isomer, J=7.1 Hz), 1.36 (3 h, enol isomer,.J =7.1 Hz), 4.11 (s, 2H, ketone isomer), 4.20 (q, 2H, ketone isomer, J=7.4 Hz), 4.32 (q, 2H, enol isomer, J=7.4 Hz), 5.50 (s, 1H, enol isomer), 7.46-7.68 (m, 3H), 7.88 (d, 1H, J=8.1 Hz), 7.92 (d, 1H, J=7.3 Hz), 8.03 (d, 1H, J=8.1 Hz), 8.36 (d, 1H, enol isomer, J=8.1 Hz), 8.76 (d, 1H, J=8.1 Hz); Field Desorption Mass Spectrometry: m/z 242.

reactant | ethyl potassium malonate | 20.0 mmol, 3.4 g | C(CC(=O)O)(=O)O.C(C)[K]
reactant | Et3N | 22.3 mmol, 3.11 mL | CCN(CC)CC | C6H15N
reactant | MgCl2 | 25.0 mmol, 2.38 g | [Mg+2].[Cl-].[Cl-]
reactant | 1-naphthoylchloride | 10.3 mmol, 1.55 mL | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | acetonitrile | 30.6 mL | C(C)#N | C2H3N
product | 3-Naphthalen-1-yl-3-oxo-propionic acid ethyl ester | 1.65 g, 66% | C(C)OC(CC(=O)C1=CC=CC2=CC=CC=C12)=O | C15H14O3
